* SPICE NETLIST
***************************************

.SUBCKT nmvt18_ckt D G S B
.ENDS
***************************************
.SUBCKT nmvt33_ckt D G S B
.ENDS
***************************************
.SUBCKT pmvt18_ckt D G S B
.ENDS
***************************************
.SUBCKT nnt18_ckt D G S B
.ENDS
***************************************
.SUBCKT nnt33_ckt D G S B
.ENDS
***************************************
.SUBCKT n18_ckt D G S B
.ENDS
***************************************
.SUBCKT n18_dnw_ckt D G S B T B2
.ENDS
***************************************
.SUBCKT n18_dnw_4t_ckt D G S B
.ENDS
***************************************
.SUBCKT p18_ckt D G S B
.ENDS
***************************************
.SUBCKT p18_dnw_ckt D G S B B2
.ENDS
***************************************
.SUBCKT p18_dnw_4t_ckt D G S B
.ENDS
***************************************
.SUBCKT n33_ckt D G S B
.ENDS
***************************************
.SUBCKT n33_dnw_ckt D G S B T B2
.ENDS
***************************************
.SUBCKT n33_dnw_4t_ckt D G S B
.ENDS
***************************************
.SUBCKT p33_ckt D G S B
.ENDS
***************************************
.SUBCKT p33_dnw_ckt D G S B B2
.ENDS
***************************************
.SUBCKT p33_dnw_4t_ckt D G S B
.ENDS
***************************************
.SUBCKT pvar18_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT pvar33_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT pnp18a4_mis_ckt C B E
.ENDS
***************************************
.SUBCKT pnp18a25_mis_ckt C B E
.ENDS
***************************************
.SUBCKT pnp18a100_mis_ckt C B E
.ENDS
***************************************
.SUBCKT pnp33a4_mis_ckt C B E
.ENDS
***************************************
.SUBCKT pnp33a25_mis_ckt C B E
.ENDS
***************************************
.SUBCKT pnp33a100_mis_ckt C B E
.ENDS
***************************************
.SUBCKT npn18a4_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT npn18a25_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT npn18a100_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT npn33a4_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT npn33a25_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT npn33a100_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT EFUSE_res PLUS MINUS
.ENDS
***************************************
.SUBCKT rnwaa_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rnwsti_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rpdif_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rndif_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rppo_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT rppo_3t_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rnpo_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT rnpo_3t_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rpdifsab_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rndifsab_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rpposab_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT rpposab_3t_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rnposab_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT rnposab_3t_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rhrpo_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT rhrpo_3t_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT mim_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT pnp33_CDNS_7791146172823 1 2
** N=2 EP=2 IP=0 FDC=1
Q0 1 1 2 pnp33a4 m=1 $X=6700 $Y=6700 $D=36
.ENDS
***************************************
.SUBCKT ICV_1 1 2 3
** N=3 EP=3 IP=4 FDC=2
X0 1 2 pnp33_CDNS_7791146172823 $T=0 0 0 0 $X=300 $Y=300
X1 1 3 pnp33_CDNS_7791146172823 $T=15100 0 0 0 $X=15400 $Y=300
.ENDS
***************************************
.SUBCKT n33_CDNS_7791146172818
** N=3 EP=0 IP=0 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT n33_CDNS_7791146172817
** N=3 EP=0 IP=0 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT p33_CDNS_779114617284
** N=4 EP=0 IP=0 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT p33_CDNS_7791146172813
** N=5 EP=0 IP=0 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT ICV_2
** N=4 EP=0 IP=10 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT ICV_3
** N=4 EP=0 IP=8 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT p33_CDNS_7791146172821
** N=4 EP=0 IP=0 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT M1_GT_CDNS_7791146172822
** N=2 EP=0 IP=0 FDC=0
.ENDS
***************************************
.SUBCKT p33_CDNS_7791146172815
** N=4 EP=0 IP=0 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT n33_CDNS_7791146172822
** N=2 EP=0 IP=0 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT p33_CDNS_779114617289
** N=4 EP=0 IP=0 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT p33_CDNS_7791146172810
** N=4 EP=0 IP=0 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT p33_CDNS_7791146172816
** N=4 EP=0 IP=0 FDC=0
*.SEEDPROM
.ENDS
***************************************
.SUBCKT OTA_for_LV_19 VN VDD VP IBIAS VO GND 9
** N=16 EP=7 IP=122 FDC=46
* PORT VN VN -14278 42666 metal1
* PORT VDD VDD 2817 71218 metal1
* PORT VP VP -14278 40656 metal1
* PORT IBIAS IBIAS 1996 68202 metal1
* PORT VO VO 43374 73624 metal1
* PORT GND GND -20536 20686 metal1
*.SEEDPROM
M0 GND 8 8 GND n33 L=4e-06 W=6e-06 AD=1.62e-12 AS=2.88e-12 PD=6.54e-06 PS=1.296e-05 NRD=0.045 NRS=0.08 sa=4.8e-07 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=-11190 $Y=15895 $D=4
M1 7 8 GND GND n33 L=4e-06 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=-6650 $Y=15895 $D=4
M2 GND 8 7 GND n33 L=4e-06 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=-2110 $Y=15895 $D=4
M3 8 8 GND GND n33 L=4e-06 W=6e-06 AD=2.88e-12 AS=1.62e-12 PD=1.296e-05 PS=6.54e-06 NRD=0.08 NRS=0.045 sa=5e-06 sb=4.8e-07 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=2430 $Y=15895 $D=4
M4 VO 7 GND GND n33 L=1e-06 W=8e-06 AD=2.16e-12 AS=3.84e-12 PD=8.54e-06 PS=1.696e-05 NRD=0.03375 NRS=0.06 sa=4.8e-07 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=22877 $Y=13595 $D=4
M5 GND 7 VO GND n33 L=1e-06 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=8.54e-06 PS=8.54e-06 NRD=0.03375 NRS=0.03375 sa=2.02e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=24417 $Y=13595 $D=4
M6 VO 7 GND GND n33 L=1e-06 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=8.54e-06 PS=8.54e-06 NRD=0.03375 NRS=0.03375 sa=3.56e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=25957 $Y=13595 $D=4
M7 GND 7 VO GND n33 L=1e-06 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=8.54e-06 PS=8.54e-06 NRD=0.03375 NRS=0.03375 sa=5e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=27497 $Y=13595 $D=4
M8 VO 7 GND GND n33 L=1e-06 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=8.54e-06 PS=8.54e-06 NRD=0.03375 NRS=0.03375 sa=5e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=29037 $Y=13595 $D=4
M9 GND 7 VO GND n33 L=1e-06 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=8.54e-06 PS=8.54e-06 NRD=0.03375 NRS=0.03375 sa=5e-06 sb=3.56e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=30577 $Y=13595 $D=4
M10 VO 7 GND GND n33 L=1e-06 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=8.54e-06 PS=8.54e-06 NRD=0.03375 NRS=0.03375 sa=5e-06 sb=2.02e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=32117 $Y=13595 $D=4
M11 GND 7 VO GND n33 L=1e-06 W=8e-06 AD=3.84e-12 AS=2.16e-12 PD=1.696e-05 PS=8.54e-06 NRD=0.06 NRS=0.03375 sa=5e-06 sb=4.8e-07 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=33657 $Y=13595 $D=4
M12 9 VP 7 9 p33 L=3e-06 W=1.2e-05 AD=3.24e-12 AS=5.76e-12 PD=1.254e-05 PS=2.496e-05 NRD=0.0225 NRS=0.04 sa=4.8e-07 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=-6500 $Y=28226 $D=8
M13 9 VN 8 9 p33 L=3e-06 W=1.2e-05 AD=3.24e-12 AS=5.76e-12 PD=1.254e-05 PS=2.496e-05 NRD=0.0225 NRS=0.04 sa=4.8e-07 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=-6500 $Y=43096 $D=8
M14 8 VN 9 9 p33 L=3e-06 W=1.2e-05 AD=3.24e-12 AS=3.24e-12 PD=1.254e-05 PS=1.254e-05 NRD=0.0225 NRS=0.0225 sa=4.02e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=-2960 $Y=28226 $D=8
M15 7 VP 9 9 p33 L=3e-06 W=1.2e-05 AD=3.24e-12 AS=3.24e-12 PD=1.254e-05 PS=1.254e-05 NRD=0.0225 NRS=0.0225 sa=4.02e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=-2960 $Y=43096 $D=8
M16 9 VN 8 9 p33 L=3e-06 W=1.2e-05 AD=3.24e-12 AS=3.24e-12 PD=1.254e-05 PS=1.254e-05 NRD=0.0225 NRS=0.0225 sa=5e-06 sb=4.02e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=580 $Y=28226 $D=8
M17 9 VP 7 9 p33 L=3e-06 W=1.2e-05 AD=3.24e-12 AS=3.24e-12 PD=1.254e-05 PS=1.254e-05 NRD=0.0225 NRS=0.0225 sa=5e-06 sb=4.02e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=580 $Y=43096 $D=8
M18 7 VP 9 9 p33 L=3e-06 W=1.2e-05 AD=5.76e-12 AS=3.24e-12 PD=2.496e-05 PS=1.254e-05 NRD=0.04 NRS=0.0225 sa=5e-06 sb=4.8e-07 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=4120 $Y=28226 $D=8
M19 8 VN 9 9 p33 L=3e-06 W=1.2e-05 AD=5.76e-12 AS=3.24e-12 PD=2.496e-05 PS=1.254e-05 NRD=0.04 NRS=0.0225 sa=5e-06 sb=4.8e-07 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=4120 $Y=43096 $D=8
M20 VDD IBIAS IBIAS VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=2.88e-12 PD=6.54e-06 PS=1.296e-05 NRD=0.045 NRS=0.08 sa=4.8e-07 sb=2.76e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=7780 $Y=68512 $D=8
M21 9 IBIAS VDD VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=1.62e-06 sb=1.62e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=8920 $Y=68512 $D=8
M22 VDD IBIAS 9 VDD p33 L=6e-07 W=6e-06 AD=2.88e-12 AS=1.62e-12 PD=1.296e-05 PS=6.54e-06 NRD=0.08 NRS=0.045 sa=2.76e-06 sb=4.8e-07 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=10060 $Y=68512 $D=8
M23 VDD IBIAS VO VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=2.88e-12 PD=6.54e-06 PS=1.296e-05 NRD=0.045 NRS=0.08 sa=4.8e-07 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=18681 $Y=62274 $D=8
M24 VDD IBIAS VO VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=2.88e-12 PD=6.54e-06 PS=1.296e-05 NRD=0.045 NRS=0.08 sa=4.8e-07 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=18681 $Y=70134 $D=8
M25 VO IBIAS VDD VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=1.62e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=19821 $Y=62274 $D=8
M26 VO IBIAS VDD VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=1.62e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=19821 $Y=70134 $D=8
M27 VDD IBIAS VO VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=2.76e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=20961 $Y=62274 $D=8
M28 VDD IBIAS VO VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=2.76e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=20961 $Y=70134 $D=8
M29 VO IBIAS VDD VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=3.9e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=22101 $Y=62274 $D=8
M30 VO IBIAS VDD VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=3.9e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=22101 $Y=70134 $D=8
M31 VDD IBIAS VO VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=23241 $Y=62274 $D=8
M32 VDD IBIAS VO VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=23241 $Y=70134 $D=8
M33 VO IBIAS VDD VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=24381 $Y=62274 $D=8
M34 VO IBIAS VDD VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=5e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=24381 $Y=70134 $D=8
M35 VDD IBIAS VO VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=3.9e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=25521 $Y=62274 $D=8
M36 VDD IBIAS VO VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=3.9e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=25521 $Y=70134 $D=8
M37 VO IBIAS VDD VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=2.76e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=26661 $Y=62274 $D=8
M38 VO IBIAS VDD VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=2.76e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=26661 $Y=70134 $D=8
M39 VDD IBIAS VO VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=1.62e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=27801 $Y=62274 $D=8
M40 VDD IBIAS VO VDD p33 L=6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=6.54e-06 PS=6.54e-06 NRD=0.045 NRS=0.045 sa=5e-06 sb=1.62e-06 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=27801 $Y=70134 $D=8
M41 VO IBIAS VDD VDD p33 L=6e-07 W=6e-06 AD=2.88e-12 AS=1.62e-12 PD=1.296e-05 PS=6.54e-06 NRD=0.08 NRS=0.045 sa=5e-06 sb=4.8e-07 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=28941 $Y=62274 $D=8
M42 VO IBIAS VDD VDD p33 L=6e-07 W=6e-06 AD=2.88e-12 AS=1.62e-12 PD=1.296e-05 PS=6.54e-06 NRD=0.08 NRS=0.045 sa=5e-06 sb=4.8e-07 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=28941 $Y=70134 $D=8
M43 VO 10 VO VO p33 L=1.75e-06 W=8.5e-05 AD=4.08e-11 AS=4.08e-11 PD=0.00017096 PS=0.00017096 NRD=0.00564706 NRS=0.00564706 sa=4.8e-07 sb=4.8e-07 m=1 nf=1 sd=0 sca=0 scb=0 scc=0 $X=37570 $Y=27955 $D=8
D44 GND VDD parasitic_nwdio AREA=2.8728e-10 PJ=6.792e-05 m=1 $X=16131 $Y=60204 $D=70
R45 10 7 L=1e-05 W=1e-06 m=1 $[rhrpo] $X=27867 $Y=27800 $D=108
.ENDS
***************************************
.SUBCKT bandgap_reference_19 GND VDD VOUT
** N=11 EP=3 IP=31 FDC=68
* PORT GND GND 68600 12800 metal1
* PORT VDD VDD 25100 176600 metal1
* PORT VOUT VOUT 140900 133134 metal1
D0 GND 11 parasitic_nwdio AREA=8.00058e-10 PJ=0.00011362 m=1 $X=77710 $Y=85756 $D=70
D1 GND VDD parasitic_nwdio AREA=8.24334e-11 PJ=3.662e-05 m=1 $X=95530 $Y=125852 $D=70
D2 GND VOUT parasitic_nwdio AREA=6.1228e-10 PJ=0.000192468 m=1 $X=125320 $Y=85241 $D=70
R3 8 1 L=7.7e-05 W=1e-06 m=1 $[rhrpo] $X=60901 $Y=102541 $D=108
R4 9 VOUT L=1.14e-05 W=1e-06 m=1 $[rhrpo] $X=139300 $Y=121494 $D=108
R5 9 2 L=1.3e-05 W=2e-06 m=1 $[rhrpo] $X=168551 $Y=25725 $D=108
R6 9 8 L=7.1e-05 W=1e-06 m=1 $[rhrpo] $X=169564 $Y=60097 $D=108
X7 GND 1 pnp33_CDNS_7791146172823 $T=127300 14700 0 0 $X=127600 $Y=15000
X8 GND 1 pnp33_CDNS_7791146172823 $T=127300 31300 0 0 $X=127600 $Y=31600
X9 GND 1 pnp33_CDNS_7791146172823 $T=127300 47700 0 0 $X=127600 $Y=48000
X10 GND 1 1 ICV_1 $T=66900 14700 0 0 $X=67200 $Y=15000
X11 GND 1 1 ICV_1 $T=66900 31300 0 0 $X=67200 $Y=31600
X12 GND 1 1 ICV_1 $T=66900 47700 0 0 $X=67200 $Y=48000
X13 GND GND 1 ICV_1 $T=97100 14700 0 0 $X=97400 $Y=15000
X14 GND 2 1 ICV_1 $T=97100 31300 0 0 $X=97400 $Y=31600
X15 GND GND 1 ICV_1 $T=97100 47700 0 0 $X=97400 $Y=48000
X16 8 VDD 2 7 VOUT GND 11 OTA_for_LV_19 $T=90300 59600 0 0 $X=69649 $Y=71098
.ENDS
***************************************
